US05864039
4-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine (1.20 g) as starting compound was reacted and treated in the same manner as in Example 1 using 1-adamantanecarbonyl chloride (0.98 g) and 4-amino-5-chloro-2-methoxybenzoic acid (0.85 g) to give N-((3R)-1-(4-(1-adamantanecarbonylamino)butyl)pyrrolidin-3-ylmethyl)-4-amino-5-chloro-2-methoxybenzamide.

reactant | 4-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine | 1.20 g | C(C)(C)(C)OC(=O)NC[C@@H]1CN(CC1)CCCCN | C14H29N3O2
reactant | 1-adamantanecarbonyl chloride | 0.98 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.85 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | N-((3R)-1-(4-(1-adamantanecarbonylamino)butyl)pyrrolidin-3-ylmethyl)-4-amino-5-chloro-2-methoxybenzamide | C12(CC3CC(CC(C1)C3)C2)C(=O)NCCCCN2C[C@H](CC2)CNC(C2=C(C=C(C(=C2)Cl)N)OC)=O | C28H41ClN4O3
